US07189716B2
4-[(S)-2-(3-Bromo-phenyl)-2-hydroxy-ethylamino]-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one:
The mixture of crude 4-chloro-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one hydrochloric acid salt (80 mg, 0.25 mmol), (S)-2-amino-1-(3-bromo-phenyl)-ethanol hydrochloric acid salt (96 mg, 0.37 mmol), N-methyl morpholine (0.5 ml, excess), and acetonitrile (15 mL) was heated to 80° C. overnight and cooled to room temperature. After concentration in vacuo, the residue was purified by prep. HPLC to yield the titled compound (73 mg, 63%). 1H NMR (400 MHz, CD3OD) δ 8.08 (s, 1H), 7.46 (s, 1H), 7.44 (s, 1H), 7.21–7.40 (m, 5H), 6.14 (d, J=7.5 Hz, 1H), 4.97 (m, 1H), 3.60–3.68 (m, 2H). LCMS (t=1.46 min), [M+H]+465.

reactant | 4-chloro-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one hydrochloric acid salt | 0.25 mmol, 80 mg | Cl.ClC1=C(C(NC=C1)=O)C1=NC=2C=C3C=NNC3=CC2N1
reactant | (S)-2-amino-1-(3-bromo-phenyl)-ethanol hydrochloric acid salt | 0.37 mmol, 96 mg | Cl.NC[C@@H](O)C1=CC(=CC=C1)Br
reactant | N-methyl morpholine | 0.5 ml | CN1CCOCC1 | C5H11NO
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
product | 4-[(S)-2-(3-Bromo-phenyl)-2-hydroxy-ethylamino]-3-(1,7-dihydro-1,2,5,7-tetraaza-s-indacen-6-yl)-1H-pyridin-2-one | 73 mg, 63% | BrC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC=C1)=O)C1=NC=2C=C3C=NNC3=CC2N1)O | C21H17BrN6O2
